US06403561B1
a) Preparation of 1,2,3,4-tetrahydro-3(S)-isoquinolinecarboxylic acid
5.0 g (30.27 mmol) of L-phenylalanine are dissolved in 50 ml of concentrated hydrochloric acid and 4.0 g of para-formaldehyde and 1 ml of concentrated sulphuric acid are added. This solution is maintained at reflux for two days. After cooling and filtration, the resulting solid is dissolved in a 1/1 (v/v) hot water/ethanol mixture and aqueous NH4OH (30%) is added until a pH 7.0 is reached. The crystals which have precipitated after cooling the solution are recovered by filtration, washed with ethanol and dried. The desired product is thus obtained.

reactant | L-phenylalanine | 30.27 mmol, 5.0 g | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | para-formaldehyde | 4.0 g | C=O | CH2O
reactant | sulphuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 1,2,3,4-tetrahydro-3(S)-isoquinolinecarboxylic acid | C1N[C@@H](CC2=CC=CC=C12)C(=O)O | C10H11NO2
